US04476131
A. dl-2-[1-[3-Methoxy-5-(1,1-dimethylheptyl)phenyl]pyrrolidin-2-yl]acetic acid
A mixture of 24.9 g. (0.10 mole) 3-methoxy-5-(1,1-dimethylheptyl)aniline, 34.5 g. (0.12 mole) methyl dl-3,6-dibromocaproate, 15 g. triethylamine and 100 ml. ethyl ether is stirred under nitrogen at room temperature for 20 hours. The ether is evaporated and the residue heated at 90°-120° C. for three hours. Additional methyl dl-3,6-dibromocaproate (5 g.) and triethylamine (5 g.) is added and heating continued at 90° C. for 2 hours and finally at 120° C. for one hour. The reaction mixture is worked up as described in Example 16 to provide the methyl ester of the desired product which is hydrolyzed in methanolic sodium hydroxide by the method of Example 17 to provide the title acid.

reactant | 3-methoxy-5-(1,1-dimethylheptyl)aniline | 0.10 mole | COC=1C=C(N)C=C(C1)C(CCCCCC)(C)C | C16H27NO
reactant | 3,6-dibromocaproate | BrC(CC(=O)[O-])CCCBr
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-[1-[3-Methoxy-5-(1,1-dimethylheptyl)phenyl]pyrrolidin-2-yl]acetic acid | COC=1C=C(C=C(C1)C(CCCCCC)(C)C)N1C(CCC1)CC(=O)O | C22H35NO3
